US06147088
Step 14B 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-ylsulfanyl]-ethyl}-piperidine-1 -carboxylic acid benzyl ester
To a solution of trifluoromethanesulfonic acid 7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl ester (524 mg in 4 mL dry N,N-dimethylformamide) at 0° C. was added 0.38 mL diisopropylethylamine followed by 2-(2-mercaptoethyl)-piperidine-1-carboxylic acid benzyl ester (455 mg in 1 mL N,N-dimethylformamide) and the reaction allowed to warm to room temperature. After 1 hour, the mixture was diluted with ethyl acetate and water, and the layers separated. The organic portion was washed sequentially with water and brine then dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (hexane:ethyl acetate, 7:3) gave the title compound (142 mg).

reactant | trifluoromethanesulfonic acid 7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-yl ester | 4 mL, 524 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C18H12ClF3N2O6S
reactant | diisopropylethylamine | 0.38 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-mercaptoethyl)-piperidine-1-carboxylic acid benzyl ester | 1 mL, 455 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCS | C15H21NO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-nitro-2-oxo-1,2-dihydroquinolin-4-ylsulfanyl]-ethyl}-piperidine-1 -carboxylic acid benzyl ester | 142 mg | C(C1=CC=CC=C1)OC(=O)N1C(CCCC1)CCSC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC(=C1)C)C | C32H32ClN3O5S
